US05426111
To a solution of 4-methoxy-4-[3-(tetrahydropyran-2-yloxy)-prop-1-ynyl]tetrahydropyran (3.8 g, 14.8 mmol), prepared as in step 2, in methanol (50 mL), was added a catalytic amount of pyridinium p-toluenesulfonate (PPTS). The resulting yellow solution was stirred under nitrogen for 17 hours at ambient temperature. The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate and treated with saturated aqueous NH4Cl. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. Purification by chromatography on silica gel (100 g, 30% ethyl acetate: hexanes) provided 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran (1.2 g, 47 %) as a colorless oil.

reactant | 4-methoxy-4-[3-(tetrahydropyran-2-yloxy)-prop-1-ynyl]tetrahydropyran | 14.8 mmol, 3.8 g | COC1(CCOCC1)C#CCOC1OCCCC1 | C14H22O4
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 50 mL | CO | CH4O
product | 4-methoxy-4-(3-hydroxyprop-1-ynyl)tetrahydropyran | 1.2 g, 47 % | COC1(CCOCC1)C#CCO | C9H14O3
